US07420083B2
To a solution of 1-phenyl-ethanone oxime (1.156 g, 8.55 mmol) in tetrahydrofuran (75 mL) was added 4-(2-bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester (2.346 g, 8.52 mmol), tetrabutylammonium iodide (0.968 g, 2.62 mmol) and 15% sodium hydroxide solution (30 mL). The reaction was heated at reflux overnight, cooled to room temperature and the layers were separated. The aqueous layer was neutralized to pH 7 by the addition of concentrated hydrochloric acid and extracted with ethyl acetate. The combined organics were washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The residue was purified by flash chromatography using ethyl acetate/hexanes (25/75)+1% formic acid to afford 2-hydroxy-4-[2-(1-phenyl-ethylideneaminooxy)-ethoxy]-benzoic acid (0.712 g, 27%) as a white solid. mp=149.1-150.4° C.; mass spectrum (+APCI, M+H) m/z 316. 1H NMR (400 MHz, DMSO-d6); δ 13.60 (bs, 1H), 11.50 (bs, 1H), 7.66 (m, 3H), 7.39 (m, 3H), 6.53 (m, 2H), 4.44 (t, 2H), 4.31 (t, 2H), 2.17 (s, 3H). Elemental analysis: Calcd. for C17H17NO5: C, 67.7; H, 5.43; N, 4.44, Found: C, 64.45; H, 5.32; N, 4.42.

reactant | 1-phenyl-ethanone oxime | 8.55 mmol, 1.156 g | C1(=CC=CC=C1)C(C)=NO | C8H9NO
reactant | 4-(2-bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester | 8.52 mmol, 2.346 g | COC(C1=C(C=C(C=C1)OCCBr)O)=O | C10H11BrO4
reactant | sodium hydroxide | 30 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 75 mL | O1CCCC1 | C4H8O
catalyst | tetrabutylammonium iodide | 2.62 mmol, 0.968 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-hydroxy-4-[2-(1-phenyl-ethylideneaminooxy)-ethoxy]-benzoic acid | 0.712 g, 27% | OC1=C(C(=O)O)C=CC(=C1)OCCON=C(C)C1=CC=CC=C1 | C17H17NO5
